US07101886B2
4-NITROPHENETHYL TOSYLATE
4-Nitrophenethyl alcohol (15 g, 89.7 mmol) was dissolved in 450 mL methylene chloride. Triethylamine (37.5 mL, 269 mmol) was added over 10 min and the reaction mixture was stirred at 0° C. for 1 hour (h). Tosyl chloride (20.52 g, 110 mmol) was added slowly to the mixture at 0° C. The reaction was stirred at room temperature (rt) overnight and was concentrated. The residue was dissolved in methylene chloride and washed with water, 1 N HCl, then water. The organic layer was dried over sodium sulfate and evaporated. The residue was triturated with hexanes and 25.32 g of white solid was collected. Yield 88%; 1H NMR (400 MHz, CDCl3) δ 8.07 (d, J=8 Hz, 2H), 7.63 (d, J=8 Hz, 2H), 7.24 (d, 4H), 4.26 (t, J=6 Hz, 2H), 3.04 (t, J=6 Hz, 2H), 2.41 (s, 3H).

reactant | 4-Nitrophenethyl alcohol | 89.7 mmol, 15 g | [N+](=O)([O-])C1=CC=C(CCO)C=C1 | C8H9NO3
reactant | Triethylamine | 269 mmol, 37.5 mL | C(C)N(CC)CC | C6H15N
reactant | Tosyl chloride | 110 mmol, 20.52 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | methylene chloride | 450 mL | C(Cl)Cl | CH2Cl2
product | 4-NITROPHENETHYL TOSYLATE | Yield 88% | S(=O)(=O)(OCCC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C)C=C1 | C15H15NO5S
